### PR TITLE
[Merged by Bors] - feat(RingTheory): Hopkins–Levitzki theorem

### PR DESCRIPTION
**Pull request by alreadydone**
**RingTheory/HopkinsLevitzki.lean** (new file): the Hopkins--Levitzki theorem says a module over a semiprimary ring is Noetherian iff it's Artinian (iff it's of finite length). As a consequence, a (left) Artinian ring is also (left) Noetherian, and a commutative ring is Artinian iff it's Noetherian and has Krull dimension 0.

**RingTheory/Jacobson/Semiprimary.lean** (new file): contains the definition of semiprimary rings, and connections between Jacobson radicals of modules and semisimplicity.

**RingTheory/Jacobson/Radical.lean** (new file): develop the theory of Jacobson radicals of modules, including versions of Nakayama's lemma over noncommutative rings.

**RingTheory/Artinian/Module.lean**: show an Artinian module or ring is semisimple iff it has trivial radical; show that an Artinian ring is semiprimary.

---

- [x] depends on: #21544

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HopkinsLevitzki.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+    let e (I : Ideal R) : R ⧸ I →ₛₗ[Ideal.Quotient.mk I] R ⧸ I := ⟨.id _, fun _ _ ↦ rfl⟩
+    rw [(e _).isNoetherian_iff_of_bijective Function.bijective_id]
+    refine @instIsNoetherianRingOfIsArtinianRing _ _ ?_
+    rw [IsArtinianRing, ← (e _).isArtinian_iff_of_bijective Function.bijective_id,
+      (LinearMap.quotKerEquivRange _).isArtinian_iff]
+    infer_instance
+  infer_instance
+
+theorem IsNoetherianRing.isArtinianRing_of_isPrime_imp_isMaximal {R} [CommRing R]
+    [IsNoetherianRing R] (h : ∀ I : Ideal R, I.IsPrime → I.IsMaximal) : IsArtinianRing R :=
```
Comment (alreadydone) [inline Mathlib/RingTheory/HopkinsLevitzki.lean:93]: @erdOne The main result of #20096 is proven here.

**Comment by alreadydone** [comment]
!bench

File: Mathlib/RingTheory/Nullstellensatz.lean [hunk 2]
```diff
@@ -168,7 +168,7 @@ theorem isMaximal_iff_eq_vanishingIdeal_singleton (I : Ideal (MvPolynomial σ k)
   simpa only [map_sum ϕ, ϕ.map_mul, map_prod ϕ, ϕ.map_pow, ϕ.map_zero, hx] using congr_arg ϕ hp
 
 /-- Main statement of the Nullstellensatz -/
-@[simp]
+-- Can't be `simp` due to simpNF timeout on LHS (failed to synthesize `I.IsPrime`)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Nullstellensatz.lean:171]: This seems like a regression. Do you understand how this is connected to the rest of the PR?
At the face of it, this lemma looks like a good simp lemma.

File: Mathlib/RingTheory/Jacobson/Radical.lean [hunk 3]
```diff
@@ -0,0 +1,196 @@
...
+    jacobson R (M ⧸ N) = map N.mkQ (jacobson R M) :=
+  (map_jacobson_of_ker_le N.mkQ_surjective <| by rwa [ker_mkQ]).symm
+
+theorem jacobson_le_of_eq_bot {N : Submodule R M} (h : jacobson R (M ⧸ N) = ⊥) :
+    jacobson R M ≤ N := by
+  simp_rw [← N.ker_mkQ, ← comap_bot, ← h, le_comap_jacobson]
+
+variable (R M)
+
+theorem jacobson_quotient_jacobson : jacobson R (M ⧸ jacobson R M) = ⊥ := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Jacobson/Radical.lean:91]: Should this be a simp lemma?
```suggestion
@[simp]
theorem jacobson_quotient_jacobson : jacobson R (M ⧸ jacobson R M) = ⊥ := by
```

File: Mathlib/RingTheory/Jacobson/Radical.lean [hunk 4]
```diff
@@ -0,0 +1,196 @@
...
+
+theorem jacobson_le_of_eq_bot {I : Ideal R} [I.IsTwoSided] (h : jacobson (R ⧸ I) = ⊥) :
+    jacobson R ≤ I :=
+  Module.jacobson_le_of_eq_bot <| by
+    rw [← le_bot_iff, ← SetLike.coe_subset_coe] at h ⊢
+    rwa [← coe_jacobson_quotient]
+
+variable (R)
+
+theorem jacobson_quotient_jacobson : jacobson (R ⧸ jacobson R) = ⊥ :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/Jacobson/Radical.lean:161]: Idem
```suggestion
@[simp]
theorem jacobson_quotient_jacobson : jacobson (R ⧸ jacobson R) = ⊥ :=
```

File: Mathlib/RingTheory/HopkinsLevitzki.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+      Module.isTorsionBySet_quotient_iff]
+    intro m i hi; exact Submodule.smul_mem_smul hi trivial
+  · rw [← Submodule.annihilator_top, Submodule.le_annihilator_iff, Ideal.IsTwoSided.pow_succ,
+      Submodule.mul_smul, ← Submodule.le_annihilator_iff] at hn
+    exact (Ideal.pow_le_self n.succ_ne_zero).trans hn
+
+variable (R M)
+
+@[stacks 00JB "A ring is Artinian if and only if it has finite length as a module over itself.
+Any such ring is both Artinian and Noetherian."]
```
Comment (jcommelin) [inline Mathlib/RingTheory/HopkinsLevitzki.lean:62]: This comment gives an equivalent condition for a ring to be artinian, but the theorem below *assumes* that `R` is artinian...

File: Mathlib/RingTheory/Nullstellensatz.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Nullstellensatz.lean]: Oh, I made an adjustment in #21544 that made this no longer necessary, but I forgot to revert this change.

File: Mathlib/RingTheory/HopkinsLevitzki.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/HopkinsLevitzki.lean:62]: The "if" part holds more generally by [isFiniteLength_iff_isNoetherian_isArtinian](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/FiniteLength.html#isFiniteLength_iff_isNoetherian_isArtinian). How about
```suggestion
@[stacks 00JB "A ring is Artinian if and only if it has finite length as a module over itself.
(For the "if" part, see `isFiniteLength_iff_isNoetherian_isArtinian`.)
Any such ring is both Artinian and Noetherian."]
```

Comment (jcommelin) [reply Mathlib/RingTheory/HopkinsLevitzki.lean:62]: My reading of the lean statement is more something like
```suggestion
/-- For a module over an Artinian ring, the following properties are equivalent:
- being finite (as module)
- being Noetherian
- being Artinian
- being of finite length -/
```

Comment (jcommelin) [reply Mathlib/RingTheory/HopkinsLevitzki.lean:62]: Sorry, I am completely confused. That stacks tag is proving a lemma about rings, right? Whereas this mathlib theorem is proving a lemma about modules.
Aren't they just talking about different things?

Comment (alreadydone) [reply Mathlib/RingTheory/HopkinsLevitzki.lean:62]: I think the only nontrivial part in the quoted statement is that an Artinian ring is finite length as a module over itself, and you can derive this from either the Artinian<->FiniteLength equivalence or the Module.Finite<->FiniteLength equivalence. But I agree the logic is a bit involved. I propose to move this Stacks tag to the next instance that says IsArtinianRing->IsNoetherianRing, and add a comment that reminds the reader that FiniteLength<->Noetherian+Artinian.

Comment (jcommelin) [reply Mathlib/RingTheory/HopkinsLevitzki.lean:62]: Sounds good to me

Comment (alreadydone) [reply Mathlib/RingTheory/HopkinsLevitzki.lean]: In [e2d1b4b](https://github.com/leanprover-community/mathlib4/pull/21451/commits/e2d1b4b0aada1da091779ae34bf32d70286b4a17) I added a lemma that corresponds exactly to the first sentence of 00JB. For the NoetherianRing to ArtinianRing instance, I intend to refer to the second sentence, but the reader won't know what "any such ring" refers to unless the first sentence is also included, so what I do is I include both sentences and make the second boldface. Please let me know if you like the commit.

>  the missing instance from IsArtinianRing to DiscreteTopology (PrimeSpectrum _)

Oh it's already there: [PrimeSpectrum.instDiscreteTopology](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Spectrum/Prime/Noetherian.html#PrimeSpectrum.instDiscreteTopology)

Comment (jcommelin) [reply Mathlib/RingTheory/HopkinsLevitzki.lean]: Yeah, this looks good to me

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
